US07504511B2
B) 1-(2-Methoxy-5-pentafluoroethylphenyl)ethanone
7.4 ml of BuLi at 2.5M in hexane are added, at −70° C., to a solution of 3.5 g of 1-methoxy-4-pentafluoroethylbenzene in 50 ml of anhydrous THF. The medium is stirred for 30 minutes at −70° C. and then for 45 minutes at 0° C. 15.5 ml of a 1M solution of zinc chloride in ether are then added. After stirring for 10 minutes at 0° C., 1.33 ml of acetyl chloride are added. The medium is then deoxygenated with nitrogen and 332 mg of benzyl(chloro)bis(triphenylphosphine)palladium in 5 ml of anhydrous THF are introduced. The medium is stirred for 2 hours 30 minutes at 0° C. and then for 72 hours at RT. The medium is poured onto 2.5M HCl solution and then extracted with ether. The organic phase is washed with 5% NaHCO3 in water, with water and then with saturated NaCl solution. After drying over MgSO4 and evaporation, the crude product is purifed by flash chromatography on silica to give 2.25 g of a white solid. m.p.=47° C.

reactant | BuLi | 7.4 ml | [Li]CCCC
reactant | 1-methoxy-4-pentafluoroethylbenzene | 3.5 g | COC1=CC=C(C=C1)C(C(F)(F)F)(F)F | C9H7F5O
reactant | acetyl chloride | 1.33 ml | C(C)(=O)Cl | C2H3ClO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 1-(2-Methoxy-5-pentafluoroethylphenyl)ethanone | 2.25 g | COC1=C(C=C(C=C1)C(C(F)(F)F)(F)F)C(C)=O | C11H9F5O2
